US08426426B2
1-[4-(Cyclopropyl-methoxyimino-methyl)-6-pyridin-3-yl-1H-benzoimidazol-2-yl]-3-ethyl-urea (I-40)
To a solution of 1-(4-cyclopropanecarbonyl-6-pyridin-3-yl-1H-benzoimidazol-2-yl)-3-ethyl-urea (37.2 g, 0.106 mmol) in dry EtOH (3 mL) were added potassium acetate (84 mg, 0.848 mmol, 8 eq.), methoxylamine hydrochloride (70.8 mg, 0.848 mmol, 8 eq.), molecular sieves (4 Å, powdered) in succession. The resulting suspension was stirred at 50° C. for 36 hours. The reaction mixture was then cooled to ambient temperature, diluted with EtOAc and water. The phases were separated, the aqueous layer was extracted with EtOAc (1×) and the combined organic extracts were dried (MgSO4), filtered, and the filtrate concentrated in vacuo. The residue was purified by preparative HPLC, converted to the bis-HCl salt to afford the title compound as a tan solid (11.0 mg): HPLC (10 to 90% CH3CN, 8 min.): tR=4.05 minutes; 1H NMR (CD3OD, 500 MHz) δ 9.30 (s, 1H), 8.99 (d, 1H), 8.90 (d, 1H), 8.22 (dd, 1H), 8.18 (s, 1H), 8.04 (s, 1H), 4.14 (s, 3H), 3.36 (q, 2H), 2.04 (m, 1H), 1.23 (t, 3H), 1.15 (m, 2H), 0.92 (m, 2H); MS (ES+) m/z (M++1) 379.2.

reactant | 1-(4-cyclopropanecarbonyl-6-pyridin-3-yl-1H-benzoimidazol-2-yl)-3-ethyl-urea | 0.106 mmol, 37.2 g | C1(CC1)C(=O)C1=CC(=CC=2NC(=NC21)NC(=O)NCC)C=2C=NC=CC2 | C19H19N5O2
reactant | potassium acetate | 0.848 mmol, 84 mg, 8 eq. | C(C)(=O)[O-].[K+]
reactant | methoxylamine hydrochloride | 0.848 mmol, 70.8 mg, 8 eq. | Cl.O(C)N
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-[4-(Cyclopropyl-methoxyimino-methyl)-6-pyridin-3-yl-1H-benzoimidazol-2-yl]-3-ethyl-urea | 11.0 mg | C1(CC1)C(C1=CC(=CC=2NC(=NC21)NC(=O)NCC)C=2C=NC=CC2)=NOC | C20H22N6O2
